US04005147
A mixture of 50 parts of 3,3-dimethylacrolein, 100 parts of acetone and 12 parts of zinc oxide is heated for 3 hours at 180° C and a pressure of 45 atmosphere in a vibrated autoclave. The reactor is then cooled and the mixture is fractionally distilled. 52.5 parts of 2-methyl-2,4-heptadien-6-one is obtained in a yield of 93% of theory based on 3,3-dimethylacrolein at a conversion 76% of theory and with a boiling point of 92° C at 15 mm Hg.

reactant | 3,3-dimethylacrolein | CC(=CC=O)C | C5H8O
reactant | acetone | CC(=O)C | C3H6O
catalyst | zinc oxide | [O-2].[Zn+2]
product | 2-methyl-2,4-heptadien-6-one | yield of 93% | CC(C)=CC=CC(C)=O | C8H12O
